US07459465B2
Diisopropylamine (122 mL) was dissolved in tetrahydrofuran (400 mL), and n-butyllithiun (1.56 mol/L) (534 mL) was added dropwise to the solution under ice-cooling. The mixture was stirred under ice-cooling for 30 min, and then cooled to −78° C. A solution (150 mL) of N,N-diethyl-2,3-dimethylbenzamide (85.4 g) in tetrahydrofuran was added dropwise to the reaction mixture and the mixture was stirred at −78° C. for 0.5 hr. The reaction mixture was cooled to −78° C. and a solution (150 mL) of (R)-1-(2-cyanoethyl)-3-hydroxypyrrolidine (53 g) in tetrahydrofuran was added dropwise to the mixture. The reaction mixture was allowed to warm to room temperature. After the completion of the reaction, water was added to the reaction mixture and the organic layer was separated and concentrated. The residue was dissolved in chloroform and the solution was washed with saturated brine and dried over magnesium sulfate. The organic layer was extracted with 1N hydrochloric acid, and the layer was basified. The aqueous layer was extracted with chloroform and the extract was dried over magnesium sulfate. The solvent was concentrated and the obtained residue was purified by silica gel column chromatography to give (R)-3-[2-(3-hydroxypyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one (23.6 g).

reactant | Diisopropylamine | 122 mL | C(C)(C)NC(C)C | C6H15N
reactant | N,N-diethyl-2,3-dimethylbenzamide | 150 mL, 85.4 g | C(C)N(C(C1=C(C(=CC=C1)C)C)=O)CC | C13H19NO
reactant | (R)-1-(2-cyanoethyl)-3-hydroxypyrrolidine | 150 mL, 53 g | C(#N)CCN1C[C@@H](CC1)O | C7H12N2O
reactant | water | O | H2O
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | (R)-3-[2-(3-hydroxypyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one | 23.6 g | O[C@H]1CN(CC1)CCC=1NC(C2=CC=CC(=C2C1)C)=O | C16H20N2O2
